US07592477B2
{(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid L-arginine salt
The same procedure as employed in the preparation of Example 2 but using {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid and L-arginine gave the title compound as a white powder. M−(LC/MS(ESI)): 472.4. HPLC (Condition A), Rt: 5.55 min (HPLC purity 99.6%).

reactant | {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid | C(#CCCCCCCCC)C1=CC=C(CN(CC2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)=O)C=C1 | C27H30F3NO3
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
product | {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid L-arginine salt | N[C@@H](CCCNC(N)=N)C(=O)O.C(#CCCCCCCCC)C1=CC=C(CN(CC2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)=O)C=C1 | InChI=1S/C27H30F3NO3.C6H14N4O2/c1-2-3-4-5-6-7-8-9-10-21-11-13-22(14-12-21)19-31(25(32)26(33)34)20-23-15-17-24(18-16-23)27(28,29)30;7-4(5(11)12)2-1-3-10-6(8)9/h11-18H,2-8,19-20H2,1H3,(H,33,34);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t;4-/m.0/s1
